US07598248B2
6-(methylthio)-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol.
The title compound was prepared by reacting 6-bromo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol (1.0 equiv), sodium thiomethoxide (1.4 equiv), and N-methylpyrrolidone (5.9 volume equivalents) in a manner analagous to Example 1(c). LCMS m/z (APCI)=253.0 (M+H).

reactant | 6-bromo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol | 1.0 equiv | BrC1=CN=C2C(=N1)N(C(=N2)O)C(CC)CC | C10H13BrN4O
reactant | sodium thiomethoxide | 1.4 equiv | C[S-].[Na+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 6-(methylthio)-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol | CSC1=CN=C2C(=N1)N(C(=N2)O)C(CC)CC | C11H16N4OS
